US04882316
A solution of 300 mg of 3'-O-acetyl-5'-[2(RS)-hydroxy-3-phenylpropyl]-2',5'-dideoxy-5-ethyluridine and 0.2 ml of methanesulphonyl chloride in 5 ml of pyridine was left to stand at 0° C. overnight. The mixture was poured on to 40 ml of ice/water, stirred and extracted with 40 ml of ethyl acetate. The extract was dried over anhydrous sodium sulphate and evaporated to yield 330 mg of 3'-O-acetyl-2',5'-dideoxy-5-ethyl-5'-[2(RS)-methanesulphonyloxy-3-phenylpropyl]uridine.

reactant | 3'-O-acetyl-5'-[2(RS)-hydroxy-3-phenylpropyl]-2',5'-dideoxy-5-ethyluridine | 300 mg | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CCC(CC1=CC=CC=C1)O)N1C(=O)NC(=O)C(=C1)CC | C22H28N2O6
reactant | methanesulphonyl chloride | 0.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3'-O-acetyl-2',5'-dideoxy-5-ethyl-5'-[2(RS)-methanesulphonyloxy-3-phenylpropyl]uridine | 330 mg | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1CCC(CC1=CC=CC=C1)OS(=O)(=O)C)N1C(=O)NC(=O)C(=C1)CC | C23H30N2O8S
